US08071584B2
Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylate
Dihydro-2H-thiopyran-3(4H)-one (0.217 g, 1.86 mmol) was dissolved in dichloromethane (23 mL) in an oven dried flask containing 3 Å molecular sieves and stirred under argon at 0° C. TMS-OTf (0.414 g, 1.86 mmol, 0.33 mL) was added slowly to the mixture over 10 min. Ethyl 5-bromo-1H-indole-7-carboxylate (0.5 g, 1.86 mmol) was dissolved in DCM (7 mL) and added to the reaction via syringe pump over 2 hours, after which it was stirred for 3 hours between 0 and 10° C. The reaction was cooled to 0° C. and triethylsilane (0.325 g, 0.44 mL, 2.8 mmol) was added all at once and the reaction was stirred at room temperature for 18 hours. The reaction was then quenched with a saturated sodium bicarbonate solution and extracted with DCM. The combined organics were washed with water. The combined aqueous layers were back-extracted with DCM. The combined organics were washed with brine, dried with MgSO4, and concentrated. The crude compound was purified on a Combiflash silica column with 5-25% EA/Hexane to give 0.279 g (40%) of the title compound.

reactant | Dihydro-2H-thiopyran-3(4H)-one | 1.86 mmol, 0.217 g | S1CC(CCC1)=O | C5H8OS
reactant | TMS-OTf | 1.86 mmol, 0.33 mL, 0.414 g | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | Ethyl 5-bromo-1H-indole-7-carboxylate | 1.86 mmol, 0.5 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | triethylsilane | 2.8 mmol, 0.44 mL, 0.325 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxylate | 0.279 g, 40% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CSCCC1 | C16H18BrNO2S
